US04766121
To a stirred suspension of 2,6-dichloro-4-nitroaniline (200 g) in glacial acetic acid (1.3 l) at 16° was added dropwise a solution of sodium nitrite (93.84 g) in concentrated sulphuric acid (500 ml), keeping the reaction mixture below 22°. The reaction mixture was stirred and kept below this temperature for 0.5 hour, then poured slowly onto crushed ice/water (2.5 liters) containing urea (31.71 g), keeping the mixture below 23°. Potassium iodide (225.77 g) in water (600 ml) was slowly added with stirring and the mixture stirred at room temperature for 3 hours. The product was filtered off, washed with water then triturated with hot ethanol to give 3,5-dichloro-4-iodonitrobenzene (263.4 g, 86%) as a buff solid, m.p. 147°-150°.

reactant | 2,6-dichloro-4-nitroaniline | 200 g | ClC1=C(N)C(=CC(=C1)[N+](=O)[O-])Cl | C6H4Cl2N2O2
reactant | sodium nitrite | 93.84 g | N(=O)[O-].[Na+]
reactant | urea | 31.71 g | NC(=O)N | CH4N2O
reactant | Potassium iodide | 225.77 g | [I-].[K+]
solvent | acetic acid | 1.3 l | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 500 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 600 ml | O | H2O
product | 3,5-dichloro-4-iodonitrobenzene | 263.4 g, 86% | ClC=1C=C(C=C(C1I)Cl)[N+](=O)[O-] | C6H2Cl2INO2
